US03971800
4-Butylamino-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester
2.8 g. of 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester is treated for 14 hours with 10 ml. of n-butylamine at reflux temperature. The excess butylamine is distilled off and the residue of 4-butylamino-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester is recrystallized from petroleum ether, yield 78%, m.p. 85°-87°.

reactant | 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(C(=NC1C)OCC)N=NN2CC | C13H18N4O3
reactant | n-butylamine | C(CCC)N | C4H11N
product | 4-Butylamino-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester | yield 78% | C(C)OC(=O)C=1C2=C(C(=NC1C)NCCCC)N=NN2CC | C15H23N5O2
